US07642264B2
3-{4-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide
To a cooled and stirred solution of 3-{4-[4-(3,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide (0.54 g) in dichloromethane (6 mL) was added TFA (6 mL) and the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was evaporated to dryness and saturated NaHCO3 solution (5 mL), diethyl ether and heptane were added. The mixture was stirred at room temperature for 1 h, the precipitate was collected by filtration, washed with water and heptane and dried. Further purification by flash-chromatography on silica gel (ethyl acetate/hexane) and crystallization (diethyl ether) yielded the title compound as a white solid (0.175, 37%). MS (ISP) 471.2 [(M+H)+]; mp 202.5° C.

reactant | 3-{4-[4-(3,4-dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid tert-butylamide | 0.54 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C | C26H24Cl2N4O2S
reactant | TFA | 6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 3-{4-[4-(3,4-Dichloro-phenyl)-6-methyl-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonamide | 37% | ClC=1C=C(C=CC1Cl)C1=NC(=NC(=C1)C)C1=CC(=NC=C1)C=1C=C(C=CC1)S(=O)(=O)N | C22H16Cl2N4O2S
